US05405851
3-Amino-9-((4-fluoroanilino)methyl)benzo[f]quinazolin-1(2H)-one
N-(9-Bromomethyl-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide (0.97 g, 2.5 mmole) and 4-fluoroaniline (0.56 g, 5 mmole) (Aldrich) were dissolved in dimethylformamide (15 ml). The reaction was stirred for 30 minutes at 100° C., sodium bicarbonate (0.42 g, 5 mmole) added and the suspension stirred for a further 30 minutes. The dimethylformamide was removed in vacuo, the residue washed with methylene chloride and filtered. The filtrate was evaporated, and the residue was subjected to chromatography on a Waters Prep 500 instrument (silica cartridge, elution with ethyl acetate/methylene chloride (1:19)). Fractions containing product were concentrated in vacuo, the residue dissolved in a minimum amount of ethyl acetate, and the solution diluted with hexane until precipitate formed. The solid was collected by filtration and dried under high vacuum to give the title compound as a beige solid (0.305 g, 29%). 1H NMR (DMSO-d6, 200 MHz) δ: 1.25 (s, 9H, t-butyl); 4.42 (d, J= 6 Hz, 2H, CH2); 6.33 (t,J=6 Hz, 1H, NH); 6.53-6.60 (m, 2H, Ar); 6.85 (t, J=8 Hz, 2H, Ar); 7.50 (d, J=10 Hz, 1H, Ar); 7.60 (dd, J=8, 2 Hz, 1H, Ar); 7.96 (d, J=8 Hz, 1H, Ar); 8.19 (d, J=8 Hz, 1H, Ar); 9.72 (s, 1H, Ar); 11.23 (s, 1H, NH); 12.28 (s, 1H, NH).

reactant | N-(9-Bromomethyl-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | 2.5 mmole, 0.97 g | BrCC=1C=CC2=C(C=3C(NC(=NC3C=C2)NC(C(C)(C)C)=O)=O)C1 | C18H18BrN3O2
reactant | 4-fluoroaniline | 5 mmole, 0.56 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium bicarbonate | 5 mmole, 0.42 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-Amino-9-((4-fluoroanilino)methyl)benzo[f]quinazolin-1(2H)-one | 0.305 g, 29% | NC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CNC3=CC=C(C=C3)F | C19H15FN4O
